US05247050
A mixture of 100 grams (0.57 mol) of trifluoroacetophenone, 100 grams (0.7 mol) trifluoromethane sulfonic acid, and 100 grams (10.9 mol) anisole is stirred at room temperature for 24 hours. The mixture is then transferred to a separatory funnel and the organic material is washed with water (3×11), saturated bicarbonate (3×500 ml) and water (2×500 ml). The organic phase is dried and the volatiles removed in vacuo. The resulting material is crystallized from aqueous methanol. 37.2 grams (0.1 mol) of this product is refluxed with glacial acetic acid saturated with anhydrous hydrobromic acid. The mixture is cooled and poured over crushed ice and the solid collected. The crude material is recrystallized from ethanol and petroleum ether to give 1,1-bis(4-hydroxyphenyl)-1-phenyl-2,2,2-trifluoroethane.

reactant | trifluoroacetophenone | 0.57 mol, 100 grams | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | trifluoromethane sulfonic acid | 0.7 mol, 100 grams | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | anisole | 10.9 mol, 100 grams | C1(=CC=CC=C1)OC | C7H8O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,1-bis(4-hydroxyphenyl)-1-phenyl-2,2,2-trifluoroethane | OC1=CC=C(C=C1)C(C(F)(F)F)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C20H15F3O2
